US07208494B2
c) (R)-4,7-Dimethyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene
This compound was prepared in analogy to Example 3, intermediate l) from (R)-4,7-dimethyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one and lithium aluminium hydride. The product was purified by column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:methanol (9:1, then 3:1) as eluant.

reactant | (R)-4,7-dimethyl-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | C[C@@H]1CNC(C2=CC3=CC(=CN=C3N12)C)=O | C12H13N3O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | (R)-4,7-Dimethyl-1,2,3,4-tetrahydro-2,4a,5-triaza-fluorene | C[C@@H]1CNCC2=CC3=CC(=CN=C3N12)C | C12H15N3
